US06951906B1
Both 10 mmol (2.2 g) of monocyclopentadienyl titanium chloride(CpTiCl3) and 100 ml of toluene were added to a 200 ml Schlenk reactor in the atmosphere of inert gas. Then, 10 mmol of 2,6-di-t-butyl phenoxy lithium, so obtained from the reaction between 2,6-di-t-butyl phenol and n-butyl lithium, was slowly added to the mixture. The reactional solution was stirred at room temperature and stood for 1 hour. After 1 hour, some mixture was collected and was analyzed by 1H-NMR spectroscopy to ascertain the reaction results.

reactant | 2,6-di-t-butyl phenol | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | n-butyl lithium | C(CCC)[Li]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6-di-t-butyl phenoxy lithium | 10 mmol, Yield: 95% | C(C)(C)(C)C1=C(O[Li])C(=CC=C1)C(C)(C)C | InChI=1S/C14H22O.Li/c1-13(2,3)10-8-7-9-11(12(10)15)14(4,5)6;/h7-9,15H,1-6H3;/q;+1/p-1
